US08492371B2
(S)-2-(1-methylpyrrolidin-3-yloxy)-5-(trifluoromethyl)benzonitrile
To a solution of 2-fluoro-5-(trifluoromethyl)benzonitrile (8.0 g, 42.3 mmol, Aldrich) in tetrahydrofuran (50 mL) were added sodium hydride (1.9 g, 46.5 mmol, 60% in mineral oil) and (S)-1-methylpyrrolidin-3-ol (4.7 mL, 46.5 mmol, Aldrich). After stirring at room temperature for 3 hours, the reaction mixture was quenched with saturated NaHCO3 (30 mL). The aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford 10.9 g of the title compound. MS (ESI+) m/z 271 (M+H)+.

reactant | 2-fluoro-5-(trifluoromethyl)benzonitrile | 42.3 mmol, 8.0 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | sodium hydride | 46.5 mmol, 1.9 g | [H-].[Na+]
reactant | (S)-1-methylpyrrolidin-3-ol | 46.5 mmol, 4.7 mL | CN1C[C@H](CC1)O | C5H11NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (S)-2-(1-methylpyrrolidin-3-yloxy)-5-(trifluoromethyl)benzonitrile | 10.9 g | CN1C[C@H](CC1)OC1=C(C#N)C=C(C=C1)C(F)(F)F | C13H13F3N2O
